US07572820B2
2-Propyl-4-(trifluoromethyl)-1-({5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazole-3-yl}methyl)-1H-indole-5-carbonitrile
A mixture of 2-propyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile (0.050 g, 0.20 mmol), 3-(chloromethyl)-5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazole (0.062 g, 0.24 mmol), Cs2CO3 (0.078 g, 0.24 mmol) and CH3CN (4 mL) was stirred at 75° C. for 1.5 h. The mixture was diluted with EtOAc (25 mL), washed with water (15 mL), and brine (15 mL). Drying (MgSO4), filtration, and concentration were followed by purification (SiO2; 0-30% EtOAc in hexanes) to afford the title compound (0.070 g, 74%) as a white solid: 1H NMR (400 MHz, DMSO-d6) δ 8.30 (d, J=7.8 Hz, 1H), 8.24 (s, 1H), 8.07 (d, J=7.8 Hz, 1H), 8.03 (d, J=8.5 Hz, 1H), 7.84 (t, J=7.8 Hz, 1H), 7.75 (d, J=8.5 Hz, 1H), 6.59 (s, 1H), 5.88 (s, 2H), 2.89 (t, J=7.6 Hz, 2H), 1.78-1.61 (m, 2H), 0.98 (t, J=7.4 Hz, 3H); MS m/z 479 (M+H).

reactant | 2-propyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | 0.20 mmol, 0.050 g | C(CC)C=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N | C13H11F3N2
reactant | 3-(chloromethyl)-5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazole | 0.24 mmol, 0.062 g | ClCC1=NOC(=N1)C1=CC(=CC=C1)C(F)(F)F | C10H6ClF3N2O
reactant | Cs2CO3 | 0.24 mmol, 0.078 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | CH3CN | 4 mL | CC#N | C2H3N
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | 2-Propyl-4-(trifluoromethyl)-1-({5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazole-3-yl}methyl)-1H-indole-5-carbonitrile | 0.070 g, 74% | C(CC)C=1N(C2=CC=C(C(=C2C1)C(F)(F)F)C#N)CC1=NOC(=N1)C1=CC(=CC=C1)C(F)(F)F | C23H16F6N4O
